US07371743B2
(a) 4-(pyrazolidin-3-on-1-yl)-3-trifluoromethyl-benzonitrile
1.00 g (5.29 mmol) 4-fluoro-3-trifluoromethyl-benzonitrile are stirred together with 1.35 g (12.0 mmol) potassium-tert.-butoxide in 4 ml DMSO at ambient temperature under an argon atmosphere for 35 min and then 1.00 g (8.16 mmol) pyrazolidin-3-on-hydrochloride in 3 ml DMSO are added. After stirring at ambient temperature for 68 h the reaction mixture is poured into semisat. sodium chloride solution and extracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate and evaporated down completely i. vac.

reactant | 4-fluoro-3-trifluoromethyl-benzonitrile | 5.29 mmol, 1.00 g | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | potassium tert.-butoxide | 12.0 mmol, 1.35 g | [K].CC(C)([O-])C
reactant | pyrazolidin-3-on-hydrochloride | 8.16 mmol, 1.00 g | Cl.N1NC(CC1)=O
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 4-(pyrazolidin-3-on-1-yl)-3-trifluoromethyl-benzonitrile | N1(NC(CC1)=O)C1=C(C=C(C#N)C=C1)C(F)(F)F | C11H8F3N3O
